US04456757
In 50 ml of chloroform were dissolved 2.0 g of 2-acetamidopropylamine and 2.6 g of triethylamine, and to the solution was added dropwise 50 ml of a chloroform solution containing 3.28 g of 5-isoquinolinesulfonyl chloride under cooling with ice. Then the mixed solution was stirred at a temperature of 15° C. to 25° C. for two hours, and the reaction solution was washed with water, dried with anhydrous magnesium sulfate and the chloroform was distilled therefrom under reduced pressure to give 3.67 g of N-(2-acetamidopropyl)-5-isoquinolinesulfonamide in a yield of 83%.

reactant | 2-acetamidopropylamine | 2.0 g | C(C)(=O)NC(CN)C | C5H12N2O
reactant | triethylamine | 2.6 g | C(C)N(CC)CC | C6H15N
reactant | 5-isoquinolinesulfonyl chloride | 3.28 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-acetamidopropyl)-5-isoquinolinesulfonamide | 3.67 g, yield of 83% | C(C)(=O)NC(CNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)C | C14H17N3O3S
